US06911560B2
(R)-(−)-2-Hydroxymethyl-4{1-hydroxy-2-[[6-(4-phenylbutoxy)hexyl]amino]ethyl}phenol
A solution of (1R)-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-{[(1S)-2-hydroxy-1-phenylethyl][6-(4-phenylbutoxy)hexyl]amino}ethanol (110 mg), in ethanol (75 ml), was hydrogenated over Pearlman's catalyst [Pd(OH)2, 60% H2O, 55 mg) for 18 h. The catalyst was removed by filtration and the residue was washed with methanol. The combined filtrate and washings were concentrated and then applied to a 10 g SCX ion exchange cartridge. The cartridge was eluted with methanol (4 column volumes) and then with 10% aqueous 880 NH3 in methanol (3 column volumes). The ammoniacal eluent was concentrated under reduced pressure to give the title compound (69 mg) as a colourless oil.

reactant | (1R)-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-{[(1S)-2-hydroxy-1-phenylethyl][6-(4-phenylbutoxy)hexyl]amino}ethanol | 110 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@H](CN(CCCCCCOCCCCC2=CC=CC=C2)[C@H](CO)C2=CC=CC=C2)O)C | C36H49NO5
reactant | H2O | O | H2O
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | Pearlman's catalyst | [OH-].[OH-].[Pd+2]
product | (R)-(−)-2-Hydroxymethyl-4{1-hydroxy-2-[[6-(4-phenylbutoxy)hexyl]amino]ethyl}phenol | 69 mg | OCC1=C(C=CC(=C1)[C@H](CNCCCCCCOCCCCC1=CC=CC=C1)O)O | C25H37NO4
